US07846960B2
A solution of 2-methyl-6-trifluoromethanesulfonyloxy-benzofuran-3-carboxylic acid methyl ester (3.25 g, 9.61 mmol) and bis(pinacolato)diboron (3.05 g, 12.0 mmol) in acetonitrile (50 mL) is de-gassed by vacuum/re-fill nitrogen three times. Tricyclohexylphosphine (108 mg, 0.384 mmol) and Pd(OAc)2 (43 mg, 0.192 mmol) and cesium fluoride (2.92 g, 19.2 mmol) are added, and the mixture is heated at 85° C. for 16 hours. The reaction mixture is cooled to room temperature and filtered through a pad of Celite®. The filtrate is concentrated to a residue, which is purified by silica gel chromatography with 15% EtOAc/Hexanes to provide 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran-3-carboxylic acid methyl ester (1.96 g, 65%). ES/MS m/e 317.0 (M+1).

reactant | 2-methyl-6-trifluoromethanesulfonyloxy-benzofuran-3-carboxylic acid methyl ester | 9.61 mmol, 3.25 g | COC(=O)C1=C(OC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)C | C12H9F3O6S
reactant | bis(pinacolato)diboron | 12.0 mmol, 3.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | cesium fluoride | 19.2 mmol, 2.92 g | [F-].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.192 mmol, 43 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Tricyclohexylphosphine | 0.384 mmol, 108 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran-3-carboxylic acid methyl ester | 1.96 g, 65% | COC(=O)C1=C(OC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C | C17H21BO5
